US07906517B2
Tert-butyl 4-(2-chloropyrimidin-5-yloxy)-butyrate (5.0 g) is dissolved in toluene (100 ml) and thereto are added palladium acetate (412 mg) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.26 g), and the mixture is stirred under nitrogen atmosphere at 50° C. for 1 hour. The reaction solution is cooled to room temperature, and thereto are added 3,5-bis-trifluoromethyl-benzylamine (5.35 g) and sodium tert-butoxide (3.88 g) and the mixture is stirred at 35° C. for 2 hours. Thereto are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→2:1) and NH-silica gel column chromatography (hexane:ethyl acetate=4:1→2:1) to give tert-butyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate (5.59 g). MS (m/z): 480 [M+H]+

reactant | Tert-butyl 4-(2-chloropyrimidin-5-yloxy)-butyrate | 5.0 g | ClC1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C | C12H17ClN2O3
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.26 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 3,5-bis-trifluoromethyl-benzylamine | 5.35 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium tert-butoxide | 3.88 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 412 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate | 5.59 g | FC(C=1C=C(CNC2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C21H23F6N3O3
